US07622583B2
N-(2-Benzoyl-5-chloro-pyridin-3-yl)-4-chloro-3-trifluoromethyl-benzene sulfonamide
A solution of (3-amino-5-chloro-pyridin-2-yl)-phenyl-methanone (40 mg, 0.17 mmol), 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride (72 mg, 0.26 mmol), and DMAP (11 mg, 0.09 mmol) in anhydrous pyridine (0.5 mL) was heated at 60° C. for 4 days. The product was separated by preparative HPLC and pure product fractions were lyophilized to provide pure product as a solid.

reactant | (3-amino-5-chloro-pyridin-2-yl)-phenyl-methanone | 0.17 mmol, 40 mg | NC=1C(=NC=C(C1)Cl)C(=O)C1=CC=CC=C1 | C12H9ClN2O
reactant | 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride | 0.26 mmol, 72 mg | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
catalyst | DMAP | 0.09 mmol, 11 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | N-(2-Benzoyl-5-chloro-pyridin-3-yl)-4-chloro-3-trifluoromethyl-benzene sulfonamide | C(C1=CC=CC=C1)(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl | C19H11Cl2F3N2O3S
